US08067582B2
Preparation 1A: 5-Methyl-2-furanethanol
A solution of n-BuLi (83.0 mL, 133 mmol, 1.6 M in hexanes) was added to a stirred solution of 2-methylfuran (10.0 mL, 111 mmol) in THF (85 mL) at 0° C. under nitrogen. The reaction mixture was stirred for 4 h at room temperature and cooled to 0° C. Ethylene oxide (8.30 mL, 166 mmol) was added drop wise and the reaction mixture was allowed to warm to room temperature over 16 h. Saturated aqueous ammonium chloride was added, the resulting layers were separated, and the aqueous layer was extracted with diethyl ether (2×250 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated under reduced pressure. Distillation at atmospheric pressure (170-185° C.) gave 10.1 g (80.3 mmol, 72%) of Preparation 1A as a light yellow oil.

reactant | n-BuLi | 133 mmol, 1.6 M, 83.0 mL | [Li]CCCC
reactant | 2-methylfuran | 111 mmol, 10.0 mL | CC=1OC=CC1 | C5H6O
reactant | Ethylene oxide | 166 mmol, 8.30 mL | C1CO1 | C2H4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 85 mL | C1CCOC1 | C4H8O
product | 5-Methyl-2-furanethanol | CC1=CC=C(O1)CCO | C7H10O2
